US05849765
Step 1: 4-(5-Trifluoromethylbenzothiazol-2-yl)pyridine
3-Amino-4-mercaptobenzotrifluoride (8.5 g, 0.04 mol) and 4-pyridine carboxaldehyde (4.2 ml, 0.04 mol) were reacted as exemplified in Example 7 step 1, to afford the title compound as a brown solid (10 g, 89%). δH (CDCl3), 7.69 (1H, d of d, J 8.4Hz, J 1.7Hz, ArH), 7.93 (2H, m, ArH), 8.06 (1H, d, J 8.4Hz, ArH), 8.40 (1H, d, J 0.7Hz, ArH), 8.81 (2H, m, ArH). m/z (ES+) 281 (M+1)+.

reactant | 3-Amino-4-mercaptobenzotrifluoride | 0.04 mol, 8.5 g | NC=1C=C(C=CC1S)C(F)(F)F | C7H6F3NS
reactant | 4-pyridine carboxaldehyde | 0.04 mol, 4.2 ml | N1=CC=C(C=C1)C=O | C6H5NO
product | 4-(5-Trifluoromethylbenzothiazol-2-yl)pyridine | 10 g, 89% | FC(C=1C=CC2=C(N=C(S2)C2=CC=NC=C2)C1)(F)F | C13H7F3N2S
